US08859573B2
4-{[2-(4-{[4-Chloro-3-(trifluoromethyl)phenyl]oxy}phenyl)ethyl]oxy}-1-(5-pyrimidinyl methyl)-2(1H)-pyrimidinone
The title compound was prepared by a procedure similar to that described for E1 starting from 4-{[2-(4-{[4-chloro-3-(trifluoromethyl)phenyl]oxy}phenyl)ethyl]oxy}-2(1H)-pyrimidinone and 5-(bromomethyl)pyrimidine. LC-MS (ESI): m/z 503 [M+H]+; 3.55 min (ret time).

reactant | 4-{[2-(4-{[4-chloro-3-(trifluoromethyl)phenyl]oxy}phenyl)ethyl]oxy}-2(1H)-pyrimidinone | ClC1=C(C=C(C=C1)OC1=CC=C(C=C1)CCOC1=NC(NC=C1)=O)C(F)(F)F | C19H14ClF3N2O3
reactant | 5-(bromomethyl)pyrimidine | BrCC=1C=NC=NC1 | C5H5BrN2
product | 4-{[2-(4-{[4-Chloro-3-(trifluoromethyl)phenyl]oxy}phenyl)ethyl]oxy}-1-(5-pyrimidinyl methyl)-2(1H)-pyrimidinone | ClC1=C(C=C(C=C1)OC1=CC=C(C=C1)CCOC1=NC(N(C=C1)CC=1C=NC=NC1)=O)C(F)(F)F | C24H18ClF3N4O3
